US07981903B2
1-[3-(methyloxy)-4-nitrophenyl]-4-(methylsulfonyl)hexahydro-1H-1,4-diazepine (0.737g, 2.24 mmol) was suspended in 5 mL THF and 10 mL MeOH in a 100 mL round bottom flask. NiCl2-6H2O (159 mg, 0.672 mmol) was added followed by slow addition of NaBH4 (254 mg, 6.72 mmol). Reaction mixture was adsorbed onto SiO2 and purified via column chromatography to afford 2-(methyloxy)-4-[4-(methylsulfonyl)hexahydro-1H-1,4-diazepin-1-yl]aniline (340 mg, 51%) 1H NMR (400 MHz, DMSO-d6) δ ppm 1.82-1.94 (m, 2 H) 2.80 (s, 3 H) 3.17 (t, J=5.82 Hz, 2 H) 3.36-3.43 (m, 2 H) 3.49 (dd, J=10.68, 3.99 Hz, 4 H) 3.75 (br. s., 3 H) 4.01-4.15 (m, 2 H) 6.10-6.20 (m, 1 H) 6.26-6.35 (m, 1 H) 6.48-6.59 (m, 1 H). ESIMS (M+H)+301

reactant | 1-[3-(methyloxy)-4-nitrophenyl]-4-(methylsulfonyl)hexahydro-1H-1,4-diazepine | 2.24 mmol, 0.737g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CCC1)S(=O)(=O)C | C13H19N3O5S
reactant | MeOH | 10 mL | CO | CH4O
reactant | NaBH4 | 6.72 mmol, 254 mg | [BH4-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(methyloxy)-4-[4-(methylsulfonyl)hexahydro-1H-1,4-diazepin-1-yl]aniline | 340 mg, 51% | COC1=C(N)C=CC(=C1)N1CCN(CCC1)S(=O)(=O)C | C13H21N3O3S
